US04439437
2-Iodo-3-hydroxy-5-methylpyridine (13.5 g, 57.4 m.mole) was added to a solution of sodium ethoxide (57.4 m.mole, prepared freshly from sodium and dry ethanol (100 ml)). Dry dimethyl sulfoxide (250 ml) was added, and the ethanol was removed by distillation under reduced pressure. Benzyl chloride (7.27 g, 57.4 mole) was added portionwise with cooling and then the mixture was heated at 90°-100° for 15 hours. The dimethyl sulfoxide was boiled off under reduced pressure, water was added (100 ml) and the product was extracted from this with chloroform. After drying with magnesium sulfate and evaporation under reduced pressure, a crude product was obtained (17.62 g, 94% yield) a tiny portion of which, after heating in water and then recrystallising from methanol-water, gave 2-iodo-3-benzyloxy-5-methylpyridine which was pure by N.M.R. (mp 83°-5°).

reactant | 2-Iodo-3-hydroxy-5-methylpyridine | 13.5 g | IC1=NC=C(C=C1O)C | C6H6INO
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | [Na] | Na
reactant | Benzyl chloride | 57.4 mole, 7.27 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | O | H2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 250 ml | CS(=O)C | C2H6OS
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-iodo-3-benzyloxy-5-methylpyridine | 94% yield | IC1=NC=C(C=C1OCC1=CC=CC=C1)C | C13H12INO
